US05120368
A solution of 6.0 g (0.0468 mole) of oxalyl chloride in 4 ml of benzene was chilled to 0° C under a nitrogen atmosphere. A solution of 4.0 g (0.0234 mole) of 2-isopropyl-5-oxohexanoic acid in 4 ml of benzene was added and the solution was warmed to room temperature, and stirred at room temperature for 20 hours. Evaporation of the solvent under reduced pressure yielded a 2-isopropyl-5-oxohexanoyl chloride residue, and the residue was dissolved in 3 ml of benzene. A 3.1 g (0.0222 mole) quantity of 2-methoxy-4-methylphenol in 5 ml of benzene was added, and the solution was stirred for 20 hours. Ether was added and the solution was washed with water, aqueous saturated sodium chloride, and 5% potassium hydroxide. The organic layer was dried over anhydrous calcium chloride, and the solvent was removed under reduoed pressure to yield a liquid whioh was purified by Kugelrohr distillation bp 120°-125° C./0.04 mm Hg.

reactant | oxalyl chloride | 0.0468 mole, 6.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-isopropyl-5-oxohexanoic acid | 0.0234 mole, 4.0 g | C(C)(C)C(C(=O)O)CCC(C)=O | C9H16O3
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | 2-isopropyl-5-oxohexanoyl chloride | C(C)(C)C(C(=O)Cl)CCC(C)=O | C9H15ClO2
